US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-formyl-morpholin-2-ylmethyl)-amide
Starting from 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide (example A147) and acetic formic anhydride the title compound is obtained as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide | N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C23H25N5O5
reactant | acetic formic anhydride | C(=O)OC(C)=O | C3H4O3
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-formyl-morpholin-2-ylmethyl)-amide | C(=O)N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C24H25N5O6
